US04092313
A 5.8 g quantity of metal sodium is dissolved in 300 ml of absolute n-butanol, 14.9 g of 2-chloro-5-fluoropyrimidin-4-one is added to the solution and the mixture is heated in a sealed tube at 140° to 150° C for 5 hours for reaction. The solvent is distilled off from the reaction mixture, 50 ml of water is added to the residue and the pH of the mixture is adjusted to 4-5 to separate out crystals, which are recrystallized from ethanol to give 17.1 g of white crystalline 2-n-butoxy-5-fluoropyrimidin-4-one in a yield of 91.9%, m.p. 127°-129° C.

reactant | sodium | [Na] | Na
reactant | 2-chloro-5-fluoropyrimidin-4-one | 14.9 g | ClC1=NC=C(C(N1)=O)F | C4H2ClFN2O
reactant | n-butanol | 300 ml | C(CCC)O | C4H10O
product | 2-n-butoxy-5-fluoropyrimidin-4-one | 17.1 g, yield of 91.9% | C(CCC)OC1=NC=C(C(N1)=O)F | C8H11FN2O2
